US07482354B2
Ethyl 1-[(5-ethyl-1,3-oxazol-2-yl)methyl]-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate
A solution of 506 mg (1.51 mmol) of ethyl 7-oxo-1-{2-oxo-2-[(2-oxobutyl)amino]ethyl}-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate in toluene (45 mL) was treated with 0.422 mL (4.53 mmol) of phosphoric trichloride and heated at 90° C. for 15 hours. The mixture was cooled to room temperature, poured into ice and neutralized with NaOH 5N. The aqueous phase was extracted with dichloromethane and the organic layer afforded 425 mg of crude that was purified on silica gel (eluant hexane/ethylacetate 7/3). 285 mg of the title compound were thus isolated (60% yield).

reactant | ethyl 7-oxo-1-{2-oxo-2-[(2-oxobutyl)amino]ethyl}-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate | 1.51 mmol, 506 mg | O=C1CCCC=2C(=NN(C12)CC(NCC(CC)=O)=O)C(=O)OCC | C16H21N3O5
reactant | phosphoric trichloride | 4.53 mmol, 0.422 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | 5N | [OH-].[Na+]
solvent | toluene | 45 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl 1-[(5-ethyl-1,3-oxazol-2-yl)methyl]-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate | 285 mg, 60% yield | C(C)C1=CN=C(O1)CN1N=C(C=2CCCC(C12)=O)C(=O)OCC | C16H19N3O4
